### PR TITLE
[Merged by Bors] - feat: `symm` and `trans` tactics

### PR DESCRIPTION
**Pull request by siddhartha-gadgil**
I have implemented a symm tactic, using annotations for symm rules. This follows (including using code from) the ext implementation.

I also have a couple of test examples

### CODE REVIEW

File: test/trans.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+example (a b c : Nat): a = b → b = c → a = c := by
+    intro h₁ h₂
+    trans b
+    assumption
+    assumption
+
+example : Trans ((. ≤ . : Nat → Nat → Prop))
+        (. ≤ . : Nat → Nat → Prop) (. ≤ . : Nat → Nat → Prop) := inferInstance
+
+example (a b c : Nat): a ≤  b → b ≤  c → a ≤  c := by
```
Comment (kbuzzard) [inline test/trans.lean:36]:
```suggestion
example (a b c : Nat): a ≤ b → b ≤ c → a ≤ c := by
```

File: test/trans.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+   intro h₁ h₂
+   trans b
+   assumption
+   assumption
+
+example (a b c : Nat): a ≤  b → b ≤  c → a ≤  c :=
+   by intros ; trans ; repeat (assumption)
+
+
+example (a b c : Nat): a <  b → b <  c → a <  c := by
```
Comment (kbuzzard) [inline test/trans.lean:46]:
```suggestion
example (a b c : Nat): a < b → b < c → a < c := by
```

File: test/trans.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+   intro h₁ h₂
+   trans b
+   assumption
+   assumption
+
+example (a b c : Nat): a <  b → b < c → a <  c :=
```
Comment (kbuzzard) [inline test/trans.lean:52]:
```suggestion
example (a b c : Nat): a < b → b < c → a < c :=
```

File: Mathlib/Tactic/Symm.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+open Lean Meta
+
+initialize symmExtension : SimpleScopedEnvExtension (Name × Array DiscrTree.Key) (DiscrTree Name) ←
+  registerSimpleScopedEnvExtension {
+    name := `symm
+    addEntry := fun dt (n, ks) => dt.insertCore ks n
+    initial := {}
+  }
+
+def relationAppM?(expr: Expr) : MetaM (Option (Expr × Expr × Expr)) :=
```
Comment (Kha) [inline Mathlib/Tactic/Symm.lean:13]:
```suggestion
def relationAppM? (expr : Expr) : MetaM (Option (Expr × Expr × Expr)) :=
```
nit: style here and elsewhere

File: Mathlib/Tactic/Trans.lean [hunk 5]
```diff
@@ -0,0 +1,109 @@
...
+      try
+        -- let f ← mkConstWithFreshMVarLevels lem
+        let r1 ←  mkAppM' rel #[x, y]
+        let r2 ←  mkAppM' rel #[y, z]
+        let l ←
+          withLocalDecl `pf1 BinderInfo.default r1 fun pf1 =>
+          withLocalDecl `pf2 BinderInfo.default r2 fun pf2 => do
+            let pf3 ← mkAppM lem #[pf1, pf2]
+              -- Term.elabAppArgs f #[]
+              --   #[Term.Arg.expr pf1, Term.Arg.expr pf2] none (explicit := false) (ellipsis := false)
```
Comment (gebner) [inline Mathlib/Tactic/Trans.lean:101]: Please remove the comments.

**Comment by urkud** [comment]
There is a stub `transitivity` in `Tactic.Basic`. Probably, it should be removed. Also, could you please mark some lemmas as `@[symm]`/`@[trans]`?

File: Mathlib/Mathport/Syntax.lean [hunk 6]
```diff
@@ -190,6 +192,7 @@ syntax caseArg := binderIdent,+ (" :" (ppSpace (ident <|> "_"))+)?
   (ppSpace colGt (ident <|> "_"))* (&" only")? (" [" simpArg,* "]")? (" with " ident+)? : tactic
 /- N -/ syntax (name := dsimp') "dsimp'" (config)? (&" only")?
   (" [" simpArg,* "]")? (" with " (colGt ident)+)? (ppSpace location)? : tactic
+
 /- E -/ syntax (name := symm) "symm" : tactic
 /- E -/ syntax (name := trans) "trans" (ppSpace colGt term)? : tactic
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Mathport/Syntax.lean:200]: Done, thanks

File: Mathlib/Tactic/Symm.lean (hunk 4 above)
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Symm.lean:13]: Could you clarify what is the correct style?

File: Mathlib/Tactic/Trans.lean [hunk 7]
```diff
@@ -0,0 +1,109 @@
...
+open Mathlib.Tactic.Symm
+
+initialize transExtension : SimpleScopedEnvExtension (Name × Array DiscrTree.Key) (DiscrTree Name) ←
+  registerSimpleScopedEnvExtension {
+    name := `trans
+    addEntry := fun dt (n, ks) => dt.insertCore ks n
+    initial := {}
+  }
+
+def areTransHyps(rel x z xyHyp yzHyp : Expr) : MetaM Bool :=
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Trans.lean:18]: Added docstring

**Comment by siddhartha-gadgil** [comment]
@urkud I don't know if `transitivity` is meant to be a stub for something different. Can someone who knows clarify?

I have cases of `@[symm]` and `@[trans]` in the test files. Do you mean also in the mathlib4 code?

File: Mathlib/Tactic/Trans.lean [hunk 8]
```diff
@@ -0,0 +1,109 @@
...
+
+def transLemmas (env : Environment) : DiscrTree Name :=
+  transExtension.getState env
+
+def simpleTrans {rel : α → α → Prop}{a b c : α}[Trans rel rel rel] :
+    rel a b → rel b c → rel a c  := trans
+
+syntax (name := trans) "trans" (ppSpace (colGt term))? : tactic
+open Lean.Elab.Tactic
+@[tactic «trans»] def transTacticImpl: Tactic := fun stx =>
```
[the remark this answers is not in the document]
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Trans.lean]: Made the changes. Thanks.

File: Mathlib/Tactic/Trans.lean [hunk 9]
```diff
@@ -0,0 +1,111 @@
...
+/-- look up transitivity lemmas -/
+def transLemmas (env : Environment) : DiscrTree Name :=
+  transExtension.getState env
+
+/-- transitivity lemmas from the typeclass -/
+theorem simpleTrans {rel : α → α → Prop}{a b c : α}[Trans rel rel rel] :
+    rel a b → rel b c → rel a c  := trans
+
+open Lean.Elab.Tactic
+/-- transitivity tactic implementation -/
```
Comment (digama0) [inline Mathlib/Tactic/Trans.lean:64]: This should be the doc string for the trans tactic itself. You can copy it from lean 3.

**Comment by digama0** [comment]
The `transitivity` tactic in `Mathlib.Tactic.Basic` is indeed meant to be subsumed by your `trans` tactic, but make sure to add some tests of the `transitivity` tactic and ensure that they still work with `trans`.

File: Mathlib/Tactic/Symm.lean [hunk 10]
```diff
@@ -0,0 +1,80 @@
...
+/-- look up symmetry lemmas -/
+def symmLemmas (env : Environment) : DiscrTree Name :=
+  symmExtension.getState env
+
+syntax (name := symm) "symm" : tactic
+
+open Lean.Elab.Tactic in
+
+/-- symmetry tactic -/
+elab "symm" : tactic =>
```
Comment (digama0) [inline Mathlib/Tactic/Symm.lean:66]:
```suggestion
open Lean.Elab.Tactic in

/-- symmetry tactic -/
elab (name := symm) "symm" : tactic =>
```
The source of your missing documentation lint is this duplicated `syntax "symm"`, since `elab "symm"` also declares a `syntax "symm"`.

File: Mathlib/Tactic/Trans.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Tactic/Trans.lean:19]: The docstring needs to start with `/--` to be recognized as one.

File: Mathlib/Tactic/Symm.lean (hunk 10 above)
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Symm.lean:66]: Thanks. Will fix.

Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Symm.lean]: Fixed

**Comment by siddhartha-gadgil** [comment]
> The `transitivity` tactic in `Mathlib.Tactic.Basic` is indeed meant to be subsumed by your `trans` tactic, but make sure to add some tests of the `transitivity` tactic and ensure that they still work with `trans`.

I have used a macro to map this and added a few tests.

**Comment by siddhartha-gadgil** [comment]
> The `transitivity` tactic in `Mathlib.Tactic.Basic` is indeed meant to be subsumed by your `trans` tactic, but make sure to add some tests of the `transitivity` tactic and ensure that they still work with `trans`.

I made a mess earlier, but have addressed this correctly I hope now. There is a single use of `transitivity` in the codebase and I copied the example and checked that `trans` works instead.

**Comment by siddhartha-gadgil** [comment]
@gebner just want to clarify that so far as I see I have addressed the comments. Should the "awaiting-author" tag be removed.

**Comment by urkud** [comment]
Yes, in the code. BTW, what lemmas does lean4 calc mode use? In lean 3 we had one attribute that was used both for calc and trans. In lean 3, the tactic transitivity uses trans lemmas.

**Comment by urkud** [comment]
When you want another round of review, you remove awaiting author and add awaiting review.

**Comment by siddhartha-gadgil** [comment]
> When you want another round of review, you remove awaiting author and add awaiting review.

I don't seem to be able to do this. Maybe only maintainers can.

File: Mathlib/Tactic/Trans.lean (hunk 9 above)
Comment (siddhartha-gadgil) [reply Mathlib/Tactic/Trans.lean]: Done.

**Comment by EdAyers** [comment]
To fix the main import linting error you can run 

```sh
/usr/bin/find Mathlib -name "*.lean" | LC_ALL=C sort | sed 's/\.lean//;s,/,.,g;s/^/import /' > Mathlib.lean
```

in the mathlib root dir

**Comment by siddhartha-gadgil** [comment]
> To fix the main import linting error you can run
> 
> ```shell
> /usr/bin/find Mathlib -name "*.lean" | LC_ALL=C sort | sed 's/\.lean//;s,/,.,g;s/^/import /' > Mathlib.lean
> ```
> 
> in the mathlib root dir

Thanks. Done this.

**Comment by lovettchris** [comment]
Can this tactic rewrite hypotheses? `symm at h` ?  I tried it but doesn't seem to like it. I believe the `symmetry` tactic could do that.

**Comment by digama0** [comment]
bors merge

**Comment by digama0** [comment]
bors merge

**Comment by digama0** [comment]
bors merge

**Comment by digama0** [comment]
bors merge

**Comment by digama0** [comment]
bors merge
